US07045533B2
Synthesis of Substitut d Bis-Aryl Ketones
Acetic acid 8-(naphthalene-1-carbonyl)-5-pentyloxynaphthalen-2-yl ester: To a stirred suspension of anhydrous aluminium chloride (4.42 g, 33.09 mmol) in anhydrous DCM (290 mL) at 0° C. under nitrogen is added dropwise a solution of naphthoyl chloride (3.7 mL, 24.8 mmol) in anhydrous DCM (35 mL). After 15 min, a solution of acetic acid 5-pentyloxynaphthalen-2-yl ester (4.5 g, 16.54 mmol) in anhydrous DCM (70 mL) is added, and the reaction mixture is allowed to warm to room temperature and stir for 20 h. The mixture is washed with saturated sodium hydrogen carbonate solution, the phases separated and the DCM removed under reduced pressure. The residue is taken up in diethyl ether and washed with water, dried (MgSO4) and the solvent removed under reduced pressure. Purification by chromatography on silica gel (1–3% ethyl acetate in cyclohexane) affords the desired product (4.8 g, 68%) and naphthalene-1-carboxylic acid 8-(naphthalene-1-carbonyl)-5-pentyloxynaphthalen-2-yl ester (2.1 g), arising from naphthoyl replacement of the acetyl group.

reactant | Acetic acid 8-(naphthalene-1-carbonyl)-5-pentyloxynaphthalen-2-yl ester | C1(=CC=CC2=CC=CC=C12)C(=O)C=1C=CC(=C2C=CC(=CC12)OC(C)=O)OCCCCC | C28H26O4
reactant | aluminium chloride | 33.09 mmol, 4.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | naphthoyl chloride | 24.8 mmol, 3.7 mL | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | acetic acid 5-pentyloxynaphthalen-2-yl ester | 16.54 mmol, 4.5 g | C(CCCC)OC1=C2C=CC(=CC2=CC=C1)OC(C)=O | C17H20O3
solvent | DCM | 290 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | naphthalene-1-carboxylic acid 8-(naphthalene-1-carbonyl)-5-pentyloxynaphthalen-2-yl ester | 2.1 g | C1(=CC=CC2=CC=CC=C12)C(=O)C=1C=CC(=C2C=CC(=CC12)OC(=O)C1=CC=CC2=CC=CC=C12)OCCCCC | C37H30O4
